US08802704B2
Step 2: tert-butyl N-(4-cyanobenzyl)-N-(2-methoxyethyl)glycinate
Tert-butyl bromoacetate (1.64 mL, 11.1 mmol) was added into a mixture of 4-{[(2-methoxyethyl)amino]methyl}benzonitrile (958 mg, 5.04 mmol) and K2CO3 (3.06 g, 22.2 mmol) in ACN (20 mL). The resulting mixture was stirred at RT overnight. The reaction mixture was diluted with EtOAc, and then washed with water and brine, dried (MgSO4) and concentrated under vacuum. The residue was purified by flash chromatography (silica, cHex/EtOAc) to give the title compound as a colorless oil. LC/MS (Method B): 305.1 (M+H)+. HPLC (Method A) Rt 3.09 min (Purity: 91.1%).

reactant | Tert-butyl bromoacetate | 11.1 mmol, 1.64 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | 4-{[(2-methoxyethyl)amino]methyl}benzonitrile | 5.04 mmol, 958 mg | COCCNCC1=CC=C(C#N)C=C1 | C11H14N2O
reactant | K2CO3 | 22.2 mmol, 3.06 g | C(=O)([O-])[O-].[K+].[K+]
solvent | ACN | 20 mL | C(C)#N | C2H3N
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl N-(4-cyanobenzyl)-N-(2-methoxyethyl)glycinate | C(#N)C1=CC=C(CN(CC(=O)OC(C)(C)C)CCOC)C=C1 | C17H24N2O3
